US07229999B2
5-(4-Fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-3-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 3-pyridinemethanol, (4-fluoro-phenyl)-boronic acid and ((1R,2R)-2-amino-1-cyclohexanol as starting materials to yield 5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-3-ylmethoxy)-nicotinamide, MS (ISP) 422.0 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 3-pyridinemethanol | N1=CC(=CC=C1)CO | C6H7NO
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (1R,2R)-2-amino-1-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-fluoro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(pyridin-3-ylmethoxy)-nicotinamide | FC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OCC=1C=NC=CC1 | C24H24FN3O3
